US06414149B1
Step C: 1-Methyl-2-quinoxalin-2-yl-1,2,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one hydrochloride
To a solution of 1-methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester (prepared according to the method of Example 75, Step B, 279 mg, 0.73 mmol) in methanol (6 mL) was added hydrogen chloride (5.85 M in methanol, 1.25 mL, 7.3 mmol). This mixture was heated at 60° C. for 30 min, cooled to room temperature, and concentrated to give 249 mg (>100%) of the title compound of Example 75, Step C as a dark red solid. 1H NMR (CD3OD, 250 MHz) δ9.45 (s, 1H), 8.13 (dd, 1H), 8.05 (m, 1H), 7.91-7.83 (c, 2H), 4.05 (s, 2H), 3.64 (t, 2H), 3.56 (s, 3H), 3.12 (t, 2H); MS (APCI) 282 (MH+).

reactant | 1-methyl-3-oxo-2-quinoxalin-2-yl-1,2,3,4,6,7-hexahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(N(C2=O)C2=NC1=CC=CC=C1N=C2)C | C20H23N5O3
reactant | hydrogen chloride | 7.3 mmol, 5.85 M, 1.25 mL | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
product | 1-Methyl-2-quinoxalin-2-yl-1,2,4,5,6,7-hexahydro-pyrazolo[4,3-c]pyridin-3-one hydrochloride | 249 mg, >100% | Cl.CN1N(C(C=2CNCCC21)=O)C2=NC1=CC=CC=C1N=C2 | InChI=1S/C15H15N5O.ClH/c1-19-13-6-7-16-8-10(13)15(21)20(19)14-9-17-11-4-2-3-5-12(11)18-14;/h2-5,9,16H,6-8H2,1H3;1H
